US08497288B2
b) (2S,4R)-4-(tert-Butyl-diphenyl-silanyloxy)-1-(4-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-2-carboxylic acid methyl ester
TBDPSCl (1.73 g, 6.3 mmol) was dropped into a solution of (2S,4R)-4-Hydroxy-1-(4-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-2-carboxylic acid methyl ester (1.0 g, 2.9 mmol) and imidazole (0.98 g, 14.4 mmol) in DMF (20 mL), the mixture was stirred at room temperature for 4 hours. Then the mixture was poured into water (50 mL), extracted with ethyl acetate (3×30 mL). The organic layers was combined, washed with water (2×30 mL), brine (30 mL), then dried over anhydrous sodium sulfate, filtered and concentrated. The residue was purified by silica gel column chromatography (ethyl acetate/petroleum ether=1:5) to give compound 1.48 g (88%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 7.67-7.62 (m, 4H), 7.47-7.37 (m, 8H), 7.13 (d, 2H, J=8.7 Hz), 6.37 (s, 1H), 4.68-4.55 (m, 2H), 3.71 (s, 3H), 3.54-3.42 (m, 2H), 2.33-2.25 (m, 1H), 2.05-1.97 (m, 1H), 1.06 (s, 9H); LC-MS: 587.2 [M+1]+.

reactant | TBDPSCl | 6.3 mmol, 1.73 g | CC(C)(C)[Si](C1=CC=CC=C1)(C2=CC=CC=C2)Cl | C16H19ClSi
reactant | (2S,4R)-4-Hydroxy-1-(4-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-2-carboxylic acid methyl ester | 2.9 mmol, 1.0 g | COC(=O)[C@H]1N(C[C@@H](C1)O)C(NC1=CC=C(C=C1)OC(F)(F)F)=O | C14H15F3N2O5
reactant | imidazole | 14.4 mmol, 0.98 g | N1C=NC=C1 | C3H4N2
reactant | water | 50 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (2S,4R)-4-(tert-Butyl-diphenyl-silanyloxy)-1-(4-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-2-carboxylic acid methyl ester | 1.48 g, 88% | COC(=O)[C@H]1N(C[C@@H](C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C(NC1=CC=C(C=C1)OC(F)(F)F)=O | C30H33F3N2O5Si
